US08629158B2
a) tert-Butyl 3-(2-(6-bromopyridin-2-yl)hydrazono)-9-azabicyclo[3.3.1]nonane-9-carboxylate
2-Bromo-6-hydrazinylpyridine (393 mg, 2.09 mmol) and tert-butyl 3-oxo-9-azabicyclo[3.3.1]nonane-9-carboxylate (500 mg, 2.09 mmol) were heated at reflux in EtOH (5 mL) for 16 h and the mixture concentrated to provide the title compound (855 mg, 100%) as a yellow solid: ESI MS m/z 409 [M+H]+.

reactant | 2-Bromo-6-hydrazinylpyridine | 2.09 mmol, 393 mg | BrC1=NC(=CC=C1)NN | C5H6BrN3
reactant | tert-butyl 3-oxo-9-azabicyclo[3.3.1]nonane-9-carboxylate | 2.09 mmol, 500 mg | O=C1CC2CCCC(C1)N2C(=O)OC(C)(C)C | C13H21NO3
solvent | EtOH | 5 mL | CCO | C2H6O
product | tert-Butyl 3-(2-(6-bromopyridin-2-yl)hydrazono)-9-azabicyclo[3.3.1]nonane-9-carboxylate | 855 mg, 100% | BrC1=CC=CC(=N1)NN=C1CC2CCCC(C1)N2C(=O)OC(C)(C)C | C18H25BrN4O2
